US07309701B2
Working as in example 19 for the preparation of ethyl 6-[4-(benzyloxy)phenyl]-3-oxo-2,3-dihydropyridazine-4-carboxylate, but starting with 31.1 g of diethyl hydroxy(pyridin-2-oxoethyl)malonate, 11.55 g of hydrazine dihydrochloride and 700 cm3 of ethanol, and after purification by chromatography on silica gel (particle size 40-63 μm, under an argon pressure of 150 kPa), eluting with dichloromethane, followed by recrystallization from ethanol, 6.9 g of ethyl 6-pyridin-2-yl-3-oxo-2,3-dihydropyridazine-4-carboxylate were obtained in the form of a yellow solid melting at 182° C.

reactant | ethyl 6-[4-(benzyloxy)phenyl]-3-oxo-2,3-dihydropyridazine-4-carboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=C(C(NN1)=O)C(=O)OCC | C20H18N2O4
reactant | hydrazine dihydrochloride | 11.55 g | Cl.Cl.NN
solvent | ethanol | 700 cm3 | C(C)O | C2H6O
product | ethyl 6-pyridin-2-yl-3-oxo-2,3-dihydropyridazine-4-carboxylate | 6.9 g | N1=C(C=CC=C1)C=1C=C(C(NN1)=O)C(=O)OCC | C12H11N3O3
